US07276607B2
A mixture of cis/trans-1-methylamino-3-(3-(1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopentane dihydrochloride (139.6 mg, 0.46 mmol), triethylamine (250 μl, 1.8 mmol), 4-dimethylaminopyridine (6.3 mg, 0.05 mmol) and 3-toluenesulfonyl chloride (91.8 mg, 0.48 mmol) in dichloromethane (10 ml) was stirred at room temperature overnight (18 h). The reaction mixture was poured into 1M aqueous sodium hydroxide (20 ml), the phases separated and the aqueous extracted with more dichloromethane (10 ml). The combined organics were dried (MgSO4) and evaporated. The residue was purified by medium pressure silica chromatography, eluting with 5% methanol in dichloromethane, to afford trans-3,N-dimethyl-N-(3-(1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopentyl)benzenesulfonamide (55.6 mg, 31%) as the first eluted isomer followed by cis-3,N-dimethyl-N-(3-(1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopentyl)benzenesulfonamide (41.2 mg, 23%). The hydrochloride salts were prepared by treating ethyl acetate solutions with hydrogen chloride in diethyl ether. trans-3,N-Dimethyl-N-(3-(1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopentyl) -benzenesulfonamide hydrochloride; δH (400 MHz, CD3OD) 1.60-1.86 (3H, m), 2.02-2.16 (2H, m), 2.30 (1H, m), 2.44 (3H, s), 2.77 (3H, s), 3.18 (2H, br s), 3.55 (2H, v br s), 3.77 (1H, m), 4.42 (2H, br s), 4.60 (1H, m), 7.21 (1H, m), 7.25-7.33 (3H, m), 7.48 (2H, m), 7.65 (2H, m); m/z (ES+) 385 ([M+H]+, 100%). cis-3,N-Dimethyl-N-(3-(1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopentyl) -benzenesulfonamide hydrochloride; δH (400 MHz, CD3OD) 1.72 (2H, m), 1.89 (2H, m), 2.17-2.31 (2H, m), 2.44 (3H, s), 2.81 (3H, s), 3.19 (2H, br s), 3.5 (2H, v br s), 3.71 (1H, m), 4.4 (2H, v br s), 4.47 (1H, m), 7.20 (1H, m), 7.28 (3H, m), 7.47 (2H, m), 7.65 (2H, m); m/z (ES+) 385 ([M+H]+, 100%).

reactant | 3-(1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopentane dihydrochloride | 0.46 mmol, 139.6 mg | Cl.Cl.C1N(CCC2=CC=CC=C12)C1CCCC1
reactant | triethylamine | 1.8 mmol, 250 μl | C(C)N(CC)CC | C6H15N
reactant | 3-toluenesulfonyl chloride | 0.48 mmol, 91.8 mg | C1(=CC(=CC=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydroxide | 1M, 20 ml | [OH-].[Na+]
catalyst | 4-dimethylaminopyridine | 0.05 mmol, 6.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | trans-3,N-dimethyl-N-(3-(1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopentyl)benzenesulfonamide | 55.6 mg, 31% | CC=1C=C(C=CC1)S(=O)(=O)N([C@@H]1C[C@H](CC1)N1CC2=CC=CC=C2CC1)C | C22H28N2O2S
